US08541595B2
Step 3, Example VI-1: N-{[5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]methyl}cyclohexanecarboxamide
To a mixture of 5-(aminomethyl)-5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-1-ium chloride (40 mg), EDC (28 mg) and HOAT (13 mg) in DMF (1 mL) was added Hunig's base (75 mg) followed by cyclohexanecarboxylic acid (19 mg). After stirring at 40° C. overnight the mixture was purified by reversed phase HPLC (21×100 mm Phenomenex Gemini, 15-75% MeCN/water containing 0.05% NH4OH over 20 min at 20 mL/min) to give title compound as a white solid. HRMS. Found, 450.1186; calcd for (M+H)+, 450.1176. 1H NMR (500 MHz, CDCl3): δ 7.85 (d, J=7.59 Hz, 1 H); 7.48 (d, J=8.42 Hz, 2 H); 7.46-7.40 (m, 1 H); 7.35-7.28 (m, 3 H); 7.07 (d, J=8.43 Hz, 2 H); 7.03 (d, J=1.34 Hz, 1 H); 4.84 (t, J=6.19 Hz, 1 H); 4.55 (dd, J=13.97, 6.66 Hz, 1 H); 4.24 (dd, J=13.99, 5.93 Hz, 1 H); 1.75-1.49 (m, 5 H); 1.39 (d, J=9.99 Hz, 1 H); 1.28 (d, J=12.70 Hz, 1 H); 1.05 (m, 4 H).

reactant | 5-(aminomethyl)-5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-1-ium chloride | 40 mg | [Cl-].NCC1(N2C(C3=CC=CC=C13)=[NH+]C=C2)C2=CC=C(C=C2)Br
reactant | HOAT | 13 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | Hunig's base | 75 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclohexanecarboxylic acid | 19 mg | C1(CCCCC1)C(=O)O | C7H12O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 28 mg
product | N-{[5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]methyl}cyclohexanecarboxamide | BrC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)CNC(=O)C2CCCCC2 | C24H24BrN3O
